US04099000
A mixture of p-nitrobenzyl 7α-azido-3-methanesulfonyloxy-3-acetoxymethyl-cepham-4-carboxylate (0.72 g.), EM silica gel 60 (7.20 g.), and 3:1 PhH-EtOAc (20 ml.) is stirred in a stoppered flask for 4 days at room temperature. The mixture is filtered through a sintered glass funnel to remove the silica gel, which is washed with several portions of EtOAc. Evaporation of the filtrate and washings leaves an oil. This material is chromatographed on Baker silica gel using 9:1 φH-EtOAc as an eluting solvent, to provide p-nitrobenzyl 7α-azido-3-acetoxymethyl-ceph-3-em-4-carboxylate.

reactant | p-nitrobenzyl 7α-azido-3-methanesulfonyloxy-3-acetoxymethyl-cepham-4-carboxylate | 0.72 g | N(=[N+]=[N-])[C@@H]1[C@@H]2N(C(C(CS2)(COC(C)=O)OS(=O)(=O)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C18H19N5O10S2
solvent | PhH EtOAc | 20 ml | C1=CC=CC=C1.CCOC(=O)C
product | p-nitrobenzyl 7α-azido-3-acetoxymethyl-ceph-3-em-4-carboxylate | N(=[N+]=[N-])[C@@H]1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C17H15N5O7S
